US04900743
3-(2-Fluorophenyl)-4-methyl-5-methylthio-4H-1,2,4-triazole
A mixture of 5-(2-fluorophenyl)-2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione (4.56 g, 2.18×10-2 mole), K2CO3 (3.01 g, 2.18×10-2 mole), methyl iodide (1.5 ml, 2.4×10-2 mole), and acetone (65 ml) was stirred and warmed to reflux. After refluxing overnight, the solvent was evaporated and the concentrate was treated with water. The aqueous mixture was extracted three times with EtOAc. The EtOAc extracts were combined, washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure affording a pale yellow oil which was purified by chromatography and kugel rohr distillation, affording a pale yellow oil: 3.55 g (73%), bp=190°-197° C. (0.3 mm).

reactant | 5-(2-fluorophenyl)-2,4-dihydro-4-methyl-3H-1,2,4-triazole-3-thione | 2.18×10-2 mole, 4.56 g | FC1=C(C=CC=C1)C=1N(C(NN1)=S)C | C9H8FN3S
reactant | K2CO3 | 2.18×10-2 mole, 3.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 2.4×10-2 mole, 1.5 ml | CI | CH3I
solvent | acetone | 65 ml | CC(=O)C | C3H6O
product | 3-(2-Fluorophenyl)-4-methyl-5-methylthio-4H-1,2,4-triazole | FC1=C(C=CC=C1)C1=NN=C(N1C)SC | C10H10FN3S
